US08877968B2
0.14 g (0.38 mmol) of methyl(S)-3-(4-methoxyphenyl)-2-(4-nitrophenoxycarbonyl-amino)propionate is diluted in 2 mL of DMF. The solution is heated to 80° C. and 0.16 g (0.76 mmol) of ethyl[2-(1H-imidazol-4-yl)ethyl]amine hydrochloride and 0.13 mL (1.3 mmol) of diisopropylethylamine are then added. After 5 minutes, the reaction medium is cooled to room temperature and stirred for 15 minutes. Toluene is added and the solvents are evaporated off. The crude product obtained is chromatographed on silica gel (eluent: 8/2 dichloromethane/methanol). 0.15 g of methyl(S)-2-{3-ethyl-3-[2-(1H-imidazol-4-yl)ethyl]ureido}-3-(4-methoxyphenyl)-propionate in the form of a colourless oil is obtained in a yield of 100%.

reactant | methyl(S)-3-(4-methoxyphenyl)-2-(4-nitrophenoxycarbonyl-amino)propionate | 0.38 mmol, 0.14 g | COC1=CC=C(C=C1)C[C@@H](C(=O)OC)NC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C18H18N2O7
reactant | ethyl[2-(1H-imidazol-4-yl)ethyl]amine hydrochloride | 0.76 mmol, 0.16 g | Cl.C(C)NCCC=1N=CNC1
reactant | diisopropylethylamine | 1.3 mmol, 0.13 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | methyl(S)-2-{3-ethyl-3-[2-(1H-imidazol-4-yl)ethyl]ureido}-3-(4-methoxyphenyl)-propionate | 0.15 g, yield of 100% | C(C)N(C(N[C@H](C(=O)OC)CC1=CC=C(C=C1)OC)=O)CCC=1N=CNC1 | C19H26N4O4
